US05200522
F) Preparation of 3-amino-2-chloro-4-methylpyridine
3-Amino-4-methylpyridine (21.6g, 0.2 mole) was suspended in 75 ml of water at room temperature. The mixture was dissolved by the addition of 25 ml conc. hydrochloric acid. The solution was cooled to 20° C. and 15.6 g (0.22 mole) of chlorine gas was introduced through an inlet tube reaching below the surface of the reaction mixture over 25 minutes. The mixture was stirred under a nitrogen purge for an additional 30 minutes, then cooled to 10° C. and basified by the addition of 70 mL of a 12.5 N. sodium hydroxide solution. Additional water (100 mL) was added to maintain efficient agitation of the mixture. The precipitate was collected, washed with water and dried to give 14.5g of the title product. The aqueous phase was extracted with 3 times 100 mL of methylene chloride. The organic phases were washed with water, dried over magnesium sulfate, and concentrated to give an additional 9.4g, mp 62-64° C. Total yield, 23.9g (84%).

reactant | 3-Amino-4-methylpyridine | 0.2 mole, 21.6g | NC=1C=NC=CC1C | C6H8N2
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | chlorine | 0.22 mole, 15.6 g | ClCl | Cl2
solvent | water | 75 ml | O | H2O
product | 3-amino-2-chloro-4-methylpyridine | 14.5g | NC=1C(=NC=CC1C)Cl | C6H7ClN2
